US06242449B1
Ethyl 4-{3-{4-(4-ethylphenyl)methylamino-3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propoxy}benzoyl}indol-1-yl}butanoate hydrochloride (40.8 g) was dissolved in tetrahydrofuran (200 ml), and methanol (200 ml) and potassium hydroxide (11.3 g) were added to the solution. The resultant mixture was refluxed for one hour and 30 minutes. The reaction mixture was cooled and concentrated under reduced pressure. Water (1.2 l) was added to dilute the residue, and the resultant solution was poured into 1N hydrochloric acid (400 ml), to thereby precipitate crystals. The crystals were collected by filtration. The collected crystals were washed with water, dried, and recrystallized from 95% ethanol, to thereby obtain 33.8 g of 4-{3-{4-(4-ethylphenyl)methylamino-3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propoxy}benzoyl}indol-1-yl}butanoate hydrochloride as pale yellow crystals.

reactant | Ethyl 4-{3-{4-(4-ethylphenyl)methylamino-3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propoxy}benzoyl}indol-1-yl}butanoate hydrochloride | 40.8 g | Cl.C(C)C1=CC=C(C=C1)CNC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)OCCCN1CCN(CC1)C1=C(C=CC=C1)OC
reactant | methanol | 200 ml | CO | CH4O
reactant | potassium hydroxide | 11.3 g | [OH-].[K+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-{3-{4-(4-ethylphenyl)methylamino-3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propoxy}benzoyl}indol-1-yl}butanoate hydrochloride | 33.8 g | Cl.C(C)C1=CC=C(C=C1)CNC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)O)C=C1)OCCCN1CCN(CC1)C1=C(C=CC=C1)OC | InChI=1S/C42H48N4O5.ClH/c1-3-31-15-17-32(18-16-31)29-43-36-20-19-33(42(49)35-30-46(22-8-14-41(47)48)37-11-5-4-10-34(35)37)28-40(36)51-27-9-21-44-23-25-45(26-24-44)38-12-6-7-13-39(38)50-2;/h4-7,10-13,15-20,28,30,43H,3,8-9,14,21-27,29H2,1-2H3,(H,47,48);1H
